US07368571B2
N-Benzyloxy-3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide
Methyl 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylate and methyl 1-(4-fluorobenzyl)-1H-imidazo[4,5-c]pyridine-6-carboxylate. The title compounds were prepared by alkylation of methyl 1H-imidazo[4,5-c]pyridine-6-carboxylate with 4-fluorobenzyl bromide under the same conditions as those in step (a) of example 1. The two isomers were separated by column chromatography using ethyl acetate as eluent and characterized by NOESY 1H NMR. Methyl 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylate: 1H NMR (300 MHz, DMSO-d6) δ: 8.95 (s, 1H), 8.71 (s, 1H), 8.26 (s, 1H), 7.42-7.40 (m, 2H), 7.12-7.09 (m, 2H), 5.57 (s, 2H), 3.79 (s, 3H). LCMS (API-ES, M+H+): 286.1 Methyl 1-(4-fluorobenzyl)-1H-imidazo[4,5-c]pyridine-6-carboxylate: 1H NMR (300 MHz, DMSO-d6) δ: 8.96 (s, 1H), 8.67 (s, 1H), 8.31 (s, 1H), 7.35-7.33 (m, 2H), 7.14-7.08 (m, 2H), 5.57 (s, 2H), 3.79 (s, 3H). LCMS (API-ES, M+H+): 286.1. (b) 3-(4-Fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid. Methyl 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylate (1.30 g, 4.56 mmol) in 30 ml 1 M LiOH in MeOH solution was stirred for 16 hours at ambient temperature. The mixture was concentrated to ⅓ of its volume in vacuo, and the pH of the concentrated solution was adjusted to 4-5 using 0.5 M hydrochloric acid. The precipitate that formed was collected by filtration and dried in vacuo to afford the title compound as a white powder (1.10 g, 88% yield). 1H NMR (300 MHz, MeOH-d4) δ: 8.73 (s, 1H), 8.56 (s, 1H), 8.39 (s, 1H), 7.36-7.34 (m, 2H), 7.07-7.02 (m, 2H), 5.57 (s, 2H). LCMS (API-ES, M+H+): 272.1. (c) N-Benzyloxy-3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide. The title compound was prepared by coupling of 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-benzyloxyamine hydrochloride under the same conditions as those in step (c) of example 1. 1H NMR (300 MHz, MeOH-d4) δ: 8.70 (s, 1H), 8.53 (s, 1H), 8.31 (s, 1H), 7.46-7.28 (m, 7H), 7.07-7.05 (m, 2H), 5.56 (s, 2H), 4.92 (s, 2H). LCMS (API-ES, M+H+): 377.1. HRMS calcd for C21H18FN4O2 (M+H) 377.1444, found 377.1424. HPLC: >91% purity.

reactant | Methyl 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylate | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)OC)C=C1 | C15H12FN3O2
reactant | methyl 1-(4-fluorobenzyl)-1H-imidazo[4,5-c]pyridine-6-carboxylate | FC1=CC=C(CN2C=NC=3C=NC(=CC32)C(=O)OC)C=C1 | C15H12FN3O2
reactant | methyl 1H-imidazo[4,5-c]pyridine-6-carboxylate | N1C=NC=2C=NC(=CC21)C(=O)OC | C8H7N3O2
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | Methyl 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylate | 4.56 mmol, 1.30 g | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)OC)C=C1 | C15H12FN3O2
reactant | LiOH | 1 M, 30 ml | [Li+].[OH-]
solvent | MeOH | CO | CH4O
product | N-Benzyloxy-3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide | 1.10 g, 88% yield | C(C1=CC=CC=C1)ONC(=O)C1=CC2=C(C=N1)N(C=N2)CC2=CC=C(C=C2)F | C21H17FN4O2
